US09056859B2
1-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride was prepared in an analogous fashion as described above in the synthesis of 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride starting from [4-(1H-tetrazol-1-yl)phenyl]acetic acid and commercially available tert-butyl 2,5-diazabicyclo[2.2.2]octane-2-carboxylate. LC/MS: [(M+1)]+=299

reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | [4-(1H-tetrazol-1-yl)phenyl]acetic acid | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)O | C9H8N4O2
reactant | tert-butyl 2,5-diazabicyclo[2.2.2]octane-2-carboxylate | C12N(CC(NC1)CC2)C(=O)OC(C)(C)C | C11H20N2O2
product | 1-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.C12N(CC(NC1)CC2)C(CC2=CC=C(C=C2)N2N=NN=C2)=O | InChI=1S/C15H18N6O.ClH/c22-15(20-9-12-3-6-14(20)8-16-12)7-11-1-4-13(5-2-11)21-10-17-18-19-21;/h1-2,4-5,10,12,14,16H,3,6-9H2;1H
